US07759349B2
Preparation of 2-[4-(2-Methoxyethoxy)phenyl]-3-cyano-6-propoxy-imidazo[1,2-b]pyridazine (Compound 110)
A mixture of 2-[4-(2-methoxyethoxy)phenyl]-3-iodo-6-propoxyimidazo[1,2-b]pyridazine (100 mg, 0.22 mmol), cuprous cyanide (22 mg, 0.24 mmol) and N,N-dimethylformamide (2 mL) was heated at 80° for 22 hours. More CuCN (10 mg) was added and the mixture heated at 100° for 29 hours. Aqueous ferric chloride solution (5%, acidified with HCl) (7 mL) was added and the resulting mixture heated at 60° for 30 minutes. The resulting suspension was filtered and the collected solid washed with saturated, aqueous sodium bicarbonate solution, water (twice) and air-dried overnight. The beige coloured solid was radially chromatographed on silica gel. Elution with 0-1% methanol in dichloromethane provided Compound 110 (50 mg, 64%) as a brilliant white solid. 1H n.m.r. (CDCl3) δ 1.06, t, J=7.4 Hz, 3H; 1.76-1.96, m, 2H; 3.47, s, 3H; 3.74-3.82, m, 2H; 4.15-4.22, m, 2H; 4.37, t, J=6.6 Hz, 2H; 6.88, d, J=9.5 Hz, 1H; 7.04, d, J=8.8 Hz, 2H; 7.82, d, J=9.5 Hz, 1H; 8.09, d, J=8.7 Hz, 2H. Mass spectrum (APCI+) m/z 353 (M+H, 100%). Further elution afforded recovered starting material (21 mg, 21%).

reactant | 2-[4-(2-methoxyethoxy)phenyl]-3-iodo-6-propoxyimidazo[1,2-b]pyridazine | 0.22 mmol, 100 mg | COCCOC1=CC=C(C=C1)C=1N=C2N(N=C(C=C2)OCCC)C1I | C18H20IN3O3
reactant | CuCN | 10 mg | C(#N)[Cu]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 2-[4-(2-Methoxyethoxy)phenyl]-3-cyano-6-propoxy-imidazo[1,2-b]pyridazine | COCCOC1=CC=C(C=C1)C=1N=C2N(N=C(C=C2)OCCC)C1C#N | C19H20N4O3
